US07432392B2
Sodium hydride (209 mg) was suspended in DMF (10 mL), and to this suspension were added benzyl alcohol (564 mg) and a solution of 4,5-difluoro-N,N-dimethyl-2-nitrobenzamide (1.0 g) in DMF (3 mL). The mixture was stirred at 50° C. for 2 hours, and then cooled with ice. After addition of 10% aqueous citric acid, the reaction mixture was extracted with ethyl acetate and the extract was washed with water and aqueous brine, dried over sodium sulfate, and concentrated. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=4:3) to give 5-benzyloxy-4-fluoro-N,N-dimethyl-2-nitrobenzamide (1.06 g).

reactant | Sodium hydride | 209 mg | [H-].[Na+]
reactant | benzyl alcohol | 564 mg | C(C1=CC=CC=C1)O | C7H8O
reactant | 4,5-difluoro-N,N-dimethyl-2-nitrobenzamide | 1.0 g | FC1=CC(=C(C(=O)N(C)C)C=C1F)[N+](=O)[O-] | C9H8F2N2O3
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 5-benzyloxy-4-fluoro-N,N-dimethyl-2-nitrobenzamide | 1.06 g | C(C1=CC=CC=C1)OC=1C(=CC(=C(C(=O)N(C)C)C1)[N+](=O)[O-])F | C16H15FN2O4
